US06465472B1
To a solid of 2-chloro-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline (50 mg, 0.15 mmol) was added dimethylamine in methanol (2.0 M, 3 mL). The resulting mixture was refluxed under argon for 2 h, and the precipitate in the reaction mixture was collected by filtration. The precipitate was washed with hexane and dried to give 2-(dimethylamino)-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline (40 mg); mp 200-206° C. 1H NMR (DMSO-d6) 7.23 (s, 1H), 7.18 (s, 1H), 7.13 (d, J=7.14 Hz, 1H), 7.07 (d, J=7.14, 1H), 6.95 (s, 1H), 6.13 (s, 6H), 3.18 (s, 6H).

reactant | 2-chloro-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline | 0.15 mmol, 50 mg | ClC1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3 | C16H9ClN2O4
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 2.0 M, 3 mL | CO | CH4O
product | 2-(dimethylamino)-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline | 40 mg | CN(C1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3)C | C18H15N3O4
